US04818757
1-[[[(S)-3-[[(Cyclohexylamino)carbonyl]amino]-2-oxo-4-phenylbutyl]methylamino]carbonyl]-L-proline
Cyclohexylamine (1 ml., 8.7 ml., 8.7 mmole) is added to a cold (0°) solution of 1-[[[(S)-3-[[(4-nitrophenoxy)carbonyl]amino]-2-oxo-4-phenylbutyl]methylamino]carbonyl]-L-proline, phenylmethyl ester (0.9 g., 1.58 mmole) in toluene in one portion. The solution turns yellow immediately and TLC indicates all starting material has been consumed. The resulting solution is washed sequentially with water, 1N hydrochloric acid, and 10% sodium bicarbonate. The organic layer is dried (MgSO4) and concentrated to a pale yellow oil. The crude product is purified (2x) by preparative layer chromatography using ethyl acetate as eluant to give 0.31 g. of 1-[[[(S)-3-[[(cyclohexylamino)carbonyl]amino]-2-oxo-4-phenylbutyl]methylamino]carbonyl]-L-proline, phenylmethyl ester as a clear, colorless salt.

reactant | Cyclohexylamine | 8.7 mmole, 1 ml | C1(CCCCC1)N | C6H13N
reactant | 1-[[[(S)-3-[[(4-nitrophenoxy)carbonyl]amino]-2-oxo-4-phenylbutyl]methylamino]carbonyl]-L-proline, phenylmethyl ester | 1.58 mmole, 0.9 g | [N+](=O)([O-])C1=CC=C(OC(=O)N[C@H](C(CN(C(=O)N2[C@H](C(=O)OCC3=CC=CC=C3)CCC2)C)=O)CC2=CC=CC=C2)C=C1 | C31H32N4O8
reactant | 1-[[[(S)-3-[[(cyclohexylamino)carbonyl]amino]-2-oxo-4-phenylbutyl]methylamino]carbonyl]-L-proline, phenylmethyl ester | C1(CCCCC1)NC(=O)N[C@H](C(CN(C(=O)N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1)C)=O)CC1=CC=CC=C1 | C31H40N4O5
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-[[[(S)-3-[[(Cyclohexylamino)carbonyl]amino]-2-oxo-4-phenylbutyl]methylamino]carbonyl]-L-proline | C1(CCCCC1)NC(=O)N[C@H](C(CN(C(=O)N1[C@H](C(=O)O)CCC1)C)=O)CC1=CC=CC=C1 | C24H34N4O5
